2156-09-21 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   O/N Mr. [**Known lastname 4194**] ABG showed acidemia with improper ventilation (pCO2
   66).  A repeat CXR indicated ARDS.  He was only breathing every 3rd
   breath despite high doses of fentanyl/mida.  He was then paralyzed to
   acheive proper ventilation.  His daughter who was very involved was
   informed of his poor prognosis.
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2156-9-21**] 12:10 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.2 mg/Kg/hour
   Other ICU medications:
   Fentanyl - [**2156-9-21**] 01:15 AM
   Midazolam (Versed) - [**2156-9-21**] 01:15 AM
   Pantoprazole (Protonix) - [**2156-9-21**] 03:00 AM
   Cisatracurium - [**2156-9-21**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-21**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.8
C (96.5
   HR: 90 (88 - 100) bpm
   BP: 93/56(65) {76/51(63) - 105/63(73)} mmHg
   RR: 26 (8 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (10 - 11)mmHg
   Total In:
                                                                    514 mL
                                                                  3,154 mL
   PO:
   TF:
   IVF:
                                                                    514 mL
                                                                  3,154 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    140 mL
   Urine:
                                                                    175 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    339 mL
                                                                  3,014 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   PEEP: 10 cmH2O
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 35 cmH2O
   SpO2: 99%
   ABG: 7.24/50/108/21/-6
   Ve: 11.7 L/min
   Physical Examination
   Intubated, paralyzed
   Pupils: Small (3mm) but  ERRL
   Pulm: Air movement heard with each vent breath.  Rhonchi heard
   throughout
   CV: RRR, No M/R/G
   Abd: Soft, non-distended, BS +
   Extr:Trace edema at the ankles
   Labs / Radiology
   143 K/uL
   9.7 g/dL
   95 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   14 mg/dL
   115 mEq/L
   141 mEq/L
   28.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2156-9-20**]  09:57 PM
                             [**2156-9-21**]  01:50 AM
                             [**2156-9-21**]  03:53 AM
                             [**2156-9-21**]  04:14 AM
                             [**2156-9-21**]  04:40 AM
   WBC
   3.3
   Hct
   28.6
   Plt
   143
   Cr
   0.6
   TCO2
   26
   25
   24
   22
   Glucose
   95
   Other labs: Lactic Acid:2.3 mmol/L, Ca++:6.9 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   Assesment: 89 y/o M with endstage Parkinson's, dysphagia, p/w septic
   shock due to likely aspiration event this afternoon
   .
   Plan:
   # Septic shock - Patient meets SIRS criteria with tachycardia,
   tachypnea, and fever. Likely is aspiration pneumonitis/pneumonia given
   history end stage Parkinson's and swallowing difficulty which place him
   at high risk for aspiration. Initial chest radiograph with evidence of
   bilateral opacities, repeat 4 hrs later consistant with ARDS.  Patient
   was paralyzed to achieve adaquate ventilation.
   - RIJ in place
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr
   - check central venous oxygen saturation
 Transfuse 1 U if low
   - pan culture blood, urine, and sputum
   - Broad spectrum antibiotics with Vancomycin, Cefepime to cover
   pulmonary and GU sources, narrow abx pending sputum culture
   - Follow-up blood, urine and sputum cultures
   - Trend WBC count fever curve
   - Echo to eval for heart failure given bilateral costophrenic haziness
   on CXR today
   .
   # Respiratory failure
   Due to aspiration
   - sedation with fentanyl and versed
   - paralyzation with cisatracurium, Appropriate to try pt off
   paralyzation today and eval for synchronous/spontaneous breathing
   - wean FiO2 and PEEP to keep O2 >90% or PO2>60
   - titrate RR and TV to optimize acid/base status: given his current
   pathology, pH>7.25 would be appropriate to minimize vent associated
   lung injury
   .
   # Parkinson's disease- on Sinemet at home but unable to crush pills.
   - call pharmacy for possible alternatives
   .
   # Anemia
   - can transfuse if CV SO2 is low to keep Hct >30
   - b/l HCT 30-35
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: Nutrition consult for tube feeds
   .
   # Access- RIJ, PIV
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, SQ heparin, pneumoboots
   .
   # Code:  confirmed DNR  with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-21 09:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Overnight, difficulty ventilating, primarily attributed to wheezing -->
   required change mode to PCV and pharmacological paralysis.
   CXR demonstrated progressive infiltrates.
   Hypotension developed requiring vasopressor (Levophed).
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2156-9-21**] 12:10 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Cisatracurium - 0.2 mg/Kg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2156-9-21**] 01:15 AM
   Fentanyl - [**2156-9-21**] 01:15 AM
   Pantoprazole (Protonix) - [**2156-9-21**] 03:00 AM
   Cisatracurium - [**2156-9-21**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-9-21**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 102 (88 - 102) bpm
   BP: 89/50(59) {76/49(59) - 105/63(73)} mmHg
   RR: 26 (8 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 96 (10 - 96)mmHg
   Total In:
                                                                    514 mL
                                                                  3,308 mL
   PO:
   TF:
   IVF:
                                                                    514 mL
                                                                  3,308 mL
   Blood products:
   Total out:
                                                                    175 mL
                                                                    710 mL
   Urine:
                                                                    175 mL
                                                                    360 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    339 mL
                                                                  2,598 mL
   Respiratory support
   Ventilator mode: PCV+
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   PEEP: 10 cmH2O
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.24/50/108/21/-6
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) PERRL, No(t) Pupils dilated, No(t)
   Conjunctiva pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Cool, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Decreased
   Labs / Radiology
   9.7 g/dL
   143 K/uL
   95 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   14 mg/dL
   115 mEq/L
   141 mEq/L
   28.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2156-9-20**]  09:57 PM
                             [**2156-9-21**]  01:50 AM
                             [**2156-9-21**]  03:53 AM
                             [**2156-9-21**]  04:14 AM
                             [**2156-9-21**]  04:40 AM
   WBC
   3.3
   Hct
   28.6
   Plt
   143
   Cr
   0.6
   TCO2
   26
   25
   24
   22
   Glucose
   95
   Other labs: Differential-Neuts:82.0 %, Band:9.0 %, Lymph:8.0 %,
   Mono:0.0 %, Eos:1.0 %, Lactic Acid:2.3 mmol/L, Ca++:6.9 mg/dL, Mg++:1.7
   mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   89 yom Parkinson's Disease, now with aspiration pneumonia complicated
   by ARDS
   RESPIRATORY FAILURE -- multifactorial;  aspiration, progression to
   ARDS.  Plan continue mechanical ventilation, low-lung volume (lung
   protective strategy).  Paralytic [**Doctor Last Name **] --> hope to discontinue.
   Monitor SaO2 > 90%.
   HYPOTENSION -- hypovolemia and sepsis, and contribution of PEEP.
   Replete fluids, monitor MAP, vasopressors to maintain MAP > 60 mmHg.
   SEPSIS -- Concern for pulmonary source, and possible urinary.
   Empirical antimicrobials.
   PNEUMONIA -- aspiration (witnessed).  Continue empirical
   antimicrobials.
   TACHYCARDIA -- improved.  Likely attributed to hypovolemia. Monitor HR.
   OLIGURIA -- hypovolemia.  Replete iv, monitor CVP to >8 cmH2O.
   PARALYSIS -- hope to discontinue once clinically improved.
   PARKINSON'S DISEASE -- No acute process.  Resume usual meds when
   possible.
   NUTRITIONAL SUPPORT -- initiate tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum:
   Pt. remains critically ill.
   Pt. remains intubated, mechanically ventilated (now on AC mode, and
   both PEEP and FiO2 reduced).  Remains on vasopressor to maintain MAP
   >60 mmHg, and CVP < 5 cmH2O.  Paralyzed and sedated.  Urine output
   improved.  Acidemia persists.
   Plan to increase iv resuscitation, goal to CVP > 10, hopefully will
   allow wean of vasopressor.  Attempt to work towards d/c paralytic
   [**Doctor Last Name **], maintain sedation.  Monitor ABG, maintain pH> 7.25.  Continue
   empirical antimicrobials.
   Discussed medical progress and answered questions for daughter and HCP.
   Total time providing Critical Care at bedside= 65 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 619**], MD
   on:[**2156-9-21**] 18:24 ------

2156-09-22 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   D/C'd paralytic at 5pm last night after patient's ABGs w/ pH>7.25.
   Began to have increase in asynchronous breathing around 23:30.  ABG
   showed a mixed respiratory and metabolic acidosis (hyperchloremic,
   likely secondary to NS resuscitation).  Was switched to LR with bicarb,
   but acidosis continued to increase and patient was fighting the vent.
   We decided to D/C fentanyl and versed and try propofol.  Patient became
   more comfortable, and ABGs improved markedly overnight.
   Currently on propofol 30 and norepi 0.1 (trying to wean this AM)
 TRANSTHORACIC ECHO - At [**2156-9-21**] 11:00 AM
 ARTERIAL LINE - START [**2156-9-21**] 11:00 AM
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2156-9-21**] 12:10 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-9-21**] 02:00 PM
   Midazolam (Versed) - [**2156-9-21**] 09:45 PM
   Fentanyl - [**2156-9-21**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-22**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 98 (98 - 127) bpm
   BP: 108/56(74) {72/44(53) - 111/62(79)} mmHg
   RR: 26 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 4 (2 - 12)mmHg
   Total In:
                                                                  7,530 mL
                                                                  2,088 mL
   PO:
   TF:
   IVF:
                                                                  7,480 mL
                                                                  1,978 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    580 mL
   Urine:
                                                                  1,135 mL
                                                                    470 mL
   NG:
                                                                    500 mL
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                  5,895 mL
                                                                  1,508 mL
   Respiratory support
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (430 - 500) mL
   Vt (Spontaneous): 507 (507 - 619) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Neuromusc Block
   PIP: 32 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: 7.39/40/116/22/0
   Ve: 13.2 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Gen: Intubated, sedated, not responsive to painful stimulus
   HEENT: Eyelids edematous, neck full.
   CV: tachy, regular rhythym, no JVD.
   Lungs: Decreased BS, no crackles appreciated
   Ext: Hands with 1+ edema, DP pulses 2+.
   Labs / Radiology
   169 K/uL
   9.6 g/dL
   88 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.4 mEq/L
   13 mg/dL
   113 mEq/L
   140 mEq/L
   28.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2156-9-21**]  04:40 AM
                             [**2156-9-21**]  11:08 AM
                             [**2156-9-21**]  04:26 PM
                             [**2156-9-21**]  06:13 PM
                             [**2156-9-21**]  09:11 PM
                             [**2156-9-21**]  10:21 PM
                             [**2156-9-22**]  12:15 AM
                             [**2156-9-22**]  02:34 AM
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
   WBC
   3.3
   10.6
   Hct
   28.6
   31
   28.1
   Plt
   143
   169
   Cr
   0.6
   0.7
   0.8
   TCO2
   21
   21
   22
   22
   23
   24
   25
   Glucose
   95
   84
   88
   Other labs: Differential-Neuts:82.0 %, Band:9.0 %, Lymph:8.0 %,
   Mono:0.0 %, Eos:1.0 %, Lactic Acid:2.2 mmol/L, LDH:154 IU/L, Ca++:7.6
   mg/dL, Mg++:2.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assesment: 89 y/o M with endstage Parkinson's, dysphagia, p/w septic
   shock due to likely aspiration event this afternoon
   .
   Plan:
   # Respiratory failure, pt. currently intubated.
   Due to aspiration, patient meets ARDS criteria.
   - wean FiO2 and PEEP to optimize oxygenation
   - titrate RR and TV to optimize acid/base status.  keep pH >7.25
   - d/c'd fentanyl and versed, stable just on propofol
   -check triglycerides
   -daily CXR
   # Septic shock - Patient meets SIRS criteria with tachycardia,
   tachypnea, and fever. Likely source is likely pulmonary given history
   end stage Parkinson's and swallowing difficulty which place him at high
   risk for aspiration. Initial chest radiograph with evidence of
   bilateral opacities, right side greater than left. Given history of
   this occurring suddenly in afternoon this is most consistent with an
   acute aspiration event.
   - IV fluids to goal CVP 8-12, giving LR now due to hyperchloremic
   metabolic acidosis 2/2 NS yesterday.
   - Transfuse for Hct > 30
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr/
   - Will try to wean levophed this AM.
   - check central venous oxygen saturation
   - f/u blood, urine, and sputum cultures
   - Broad spectrum antibiotics with Vancomycin(day 2), Cefepime(day 2) to
   cover pulmonary and GU sources, narrow abx pending sputum culture
   - Trending WBC count fever curve
   .
   # Parkinson's disease- on Sinemet
   .
   # Anemia
   - b/l HCT 30-35, at baseline
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: holding TF
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, SQ heparin, pneumoboots
   .
   # Code:  confirmed FULL CODE with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-9-20**] 10:00 PM
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-23 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Did poorly with SBT: HR to 140
s, RR to 6, unable to maintain minute
   ventilation.
   Sacral decubitous ulcer noted. Pt with history of sacral decub since
   [**Month (only) **].
   Tube Feeds started and tolerated well to 20 cc/hr, goal 40 cc/hr.
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-22**] 08:00 PM
   Cefipime - [**2156-9-23**] 12:00 AM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-9-22**] 02:18 PM
   Heparin Sodium (Prophylaxis) - [**2156-9-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-23**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 107 (89 - 127) bpm
   BP: 100/56(72) {74/46(57) - 161/102(114)} mmHg
   RR: 26 (13 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
    CVP: 10 (6 - 10)mmHg
   Total In:
                                                                  3,954 mL
                                                                    432 mL
   PO:
   TF:
                                                                     19 mL
                                                                     66 mL
   IVF:
                                                                  3,655 mL
                                                                    267 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    440 mL
   Urine:
                                                                  1,525 mL
                                                                    440 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                  2,219 mL
                                                                     -8 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 457 (457 - 507) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 33 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.41/36/158/22/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 395
   Physical Examination
   Gen- Intubated, sedated
   CV- RRR with multiple PACs, no m/r
   Pulm- Rhonchi heard throughout, slightly improved from yesterday
   Abd- Soft, Mild distention, BS Present
   Extr- Edematous throughout, Radial and pedal pulses 2+ symmetric.
   Labs / Radiology
   137 K/uL
   9.0 g/dL
   88 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   16 mg/dL
   114 mEq/L
   142 mEq/L
   25.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2156-9-21**]  04:26 PM
                             [**2156-9-21**]  06:13 PM
                             [**2156-9-21**]  09:11 PM
                             [**2156-9-21**]  10:21 PM
                             [**2156-9-22**]  12:15 AM
                             [**2156-9-22**]  02:34 AM
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
                             [**2156-9-22**]  05:42 PM
                             [**2156-9-23**]  04:23 AM
   WBC
   10.6
   9.8
   Hct
   31
   28.1
   25.8
   Plt
   169
   137
   Cr
   0.7
   0.8
   0.8
   TCO2
   21
   22
   22
   23
   24
   25
   25
   24
   Glucose
   84
   88
   88
   Other labs: PT / PTT / INR:16.2/45.4/1.4, Differential-Neuts:80.0 %,
   Band:6.0 %, Lymph:12.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.2
   mmol/L, LDH:154 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assesment: 89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS
   likely due to aspiration event.
   Plan:
   # Respiratory failure, pt. currently intubated.
   Due to aspiration event, patient meets ARDS criteria.
   -Patient doing well this morning, continue daily SBT, daily RSBI and
   daily wake ups to assess his status.  Will not likely be able to wean
   from the vent today.
   - wean FiO2 and PEEP to optimize oxygenation
   - titrate RR and TV to optimize acid/base status.  keep pH >7.25
   - Continue propofol for sedation
   -will try to wean levophed but maintain MAP >60, but may be difficult
   [**3-13**] propofol
   - check triglycerides ([**3-13**] propofol to prevent pancreatitis)
   - daily CXR
   - IV fluids to goal CVP 10-12
 Print CVP tracing [**Hospital1 **] to assess.
   -follow I&O, maintain urine output >30cc/hr
   - f/u blood, urine, and sputum cultures
   - Broad spectrum antibiotics with Vancomycin(day 3), Cefepime(day 3) to
   cover pulmonary and GU sources, narrow abx pending cultures
   # Parkinson's disease- on Sinemet
   .
   # Anemia: Crit drop 2 pts today to 26.
   -          Guiac stools.
   -          Check HCT q8
   -          Transfuse 1 U PRBC today to keep Hct above 28
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: TF to 40 cc/hr as tolerated.  Replace lytes, including phos.
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, SQ heparin, pneumoboots
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-22**] 10:05 PM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-9-20**] 10:00 PM
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-23 10:07:00 Physician Attending Progress Note
Chief Complaint: Sepsis; Respiratory failure
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on vasopressor, now somewhat reduced dose.
   TF initiated via NGT, tolerated without significant residuals.
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-22**] 08:00 PM
   Cefipime - [**2156-9-23**] 12:00 AM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-9-22**] 02:18 PM
   Heparin Sodium (Prophylaxis) - [**2156-9-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-9-23**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 105 (89 - 127) bpm
   BP: 107/58(76) {74/46(57) - 161/102(114)} mmHg
   RR: 28 (13 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 7 (6 - 10)mmHg
   Total In:
                                                                  3,954 mL
                                                                    703 mL
   PO:
   TF:
                                                                     19 mL
                                                                    137 mL
   IVF:
                                                                  3,655 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    600 mL
   Urine:
                                                                  1,525 mL
                                                                    600 mL
   NG:
                                                                    210 mL
   Stool:
   Drains:
   Balance:
                                                                  2,219 mL
                                                                    103 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 457 (457 - 507) mL
   PS : 5 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 33 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.41/36/158/22/0
   Ve: 12.8 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Scattered, bilateral, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   137 K/uL
   88 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   16 mg/dL
   114 mEq/L
   142 mEq/L
   25.8 %
   9.8 K/uL
        [image002.jpg]
                             [**2156-9-21**]  04:26 PM
                             [**2156-9-21**]  06:13 PM
                             [**2156-9-21**]  09:11 PM
                             [**2156-9-21**]  10:21 PM
                             [**2156-9-22**]  12:15 AM
                             [**2156-9-22**]  02:34 AM
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
                             [**2156-9-22**]  05:42 PM
                             [**2156-9-23**]  04:23 AM
   WBC
   10.6
   9.8
   Hct
   31
   28.1
   25.8
   Plt
   169
   137
   Cr
   0.7
   0.8
   0.8
   TCO2
   21
   22
   22
   23
   24
   25
   25
   24
   Glucose
   84
   88
   88
   Other labs: PT / PTT / INR:16.2/45.4/1.4, Differential-Neuts:93.0 %,
   Band:0.0 %, Lymph:3.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   LDH:154 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Sepsis
   RESPIRATORY FAILURE -- bilateral pneumonia vs early signs of ARDS.
   Good progress.  Maintain mechanical ventilation, lung protective
   strategy.  Monitor ABG
   HYPOTENSION -- attributed to sepsis and hypovolemia.  Continue volume
   resuscitation, vasopressor as needed to maintain MAP > 60 mmHg.
   SEPSIS -- no identified cultures, but concerns for pneumonia and UTI.
   Continue current level of support, empirical antimicrobials.
   ANEMIA -- no clinical evidence for blood loss.  Likely predominately
   dilutional and blood draws.
   HYPOPHOSPHOTEMIA -- replete to >2.5
   FLUIDS
 replete to CVP > 8 cm H2O.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-22**] 10:05 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2156-9-20**] 10:00 PM
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2156-09-24 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2156-9-23**] 01:56 PM
   Failed SBT yesterday and this AM.  During SBT minute vent from 14 down
   to [**7-18**] and was tachy to 140
   Patient unable to wean from norepi, off for 5 hours but could not
   maintain MAPs>60 despite 2L boluses
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-22**] 08:00 PM
   Cefipime - [**2156-9-23**] 12:00 AM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-9-23**] 11:59 PM
   Pantoprazole (Protonix) - [**2156-9-24**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-24**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 96 (87 - 116) bpm
   BP: 96/63(76) {87/49(63) - 126/92(94)} mmHg
   RR: 26 (21 - 44) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 12 (5 - 14)mmHg
   Total In:
                                                                  3,633 mL
                                                                  2,110 mL
   PO:
   TF:
                                                                    584 mL
                                                                    219 mL
   IVF:
                                                                  2,314 mL
                                                                  1,791 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,560 mL
                                                                    640 mL
   Urine:
                                                                  1,560 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,073 mL
                                                                  1,470 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%, Unstable Airway
   PIP: 39 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 12.7 L/min
   Physical Examination
   Gen
 Intubated, sedated, not responding to verbal commands
   Pupils- 3mm, but ERRL
   CV
 Tachy but Reg rate, no m/g/r
   Pulm- Diffuse expiratory wheezes/rhonchi
   Abd- Soft between retractions,
   Labs / Radiology
   114 K/uL
   9.2 g/dL
   131 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   15 mg/dL
   116 mEq/L
   141 mEq/L
   26.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2156-9-21**]  06:13 PM
                             [**2156-9-21**]  09:11 PM
                             [**2156-9-21**]  10:21 PM
                             [**2156-9-22**]  12:15 AM
                             [**2156-9-22**]  02:34 AM
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
                             [**2156-9-22**]  05:42 PM
                             [**2156-9-23**]  04:23 AM
                             [**2156-9-24**]  03:37 AM
   WBC
   10.6
   9.8
   7.2
   Hct
   31
   28.1
   25.8
   26.6
   Plt
   169
   137
   114
   Cr
   0.7
   0.8
   0.8
   0.6
   TCO2
   22
   22
   23
   24
   25
   25
   24
   Glucose
   84
   88
   88
   131
   Other labs: PT / PTT / INR:14.3/39.1/1.2, Differential-Neuts:84.3 %,
   Band:0.0 %, Lymph:10.2 %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.2
   mmol/L, LDH:154 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assesment: 89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS
   likely due to aspiration event.
   Plan:
   # Respiratory failure, pt. currently day 5 intubation.
   Due to aspiration event, patient meets ARDS criteria.
   -Patient Failed  SBTs.  Will continue daily SBT, RSBI and daily wake
   ups to assess his status.
   - wean FiO2 and PEEP to optimize oxygenation
   - daily CXR
   - titrate RR and TV to optimize acid/base status.  Permissive
   hypercapnia of pH >7.25
   - Family meeting today to discuss vent weaning, possble trachiostomy
   (maybe placed anytime day [**8-19**]), and goals for care.
   # Septic shock/Hypotension
   -will try to wean levophed but maintain MAP >60, but may be difficult
   [**3-13**] propofol, will try Fentanyl/versed
   - IV fluids to goal CVP 10-12
 Print CVP tracing [**Hospital1 **] to assess.
   -follow I&O, maintain urine output >30cc/hr
   - Sputum cx possitive for Staph aureus
   - Broad spectrum antibiotics with Vancomycin(day 4), Cefepime(day 4) to
   cover pulmonary and GU sources, narrow abx pending sensitivities
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   .
   #GI care: Patient without BM since Sunday
   -Hold TF
   - Abd film today
   - Will start bowel regimen
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia
   - patient with plt trending down since admit
   - D/C SQ heparin
   - Send off HIT Ab
   .
   # Anemia: Crit drop 2 pts today to 26.
   - Guiac stools.
   - Check HCT q8
   - Transfuse 1 U PRBC today to keep Hct above 28
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: Hold TF for now.  Replace lytes, including phos (nutriphos
   PO/NG).
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-24**] 03:34 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-9-20**] 10:00 PM
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-24 09:54:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
 EKG - At [**2156-9-23**] 01:56 PM
   Remains intubated, mechanically ventilated.  Poor tolerance of SBT
   (increased RR, HR, BP, reduced SaO2).
   Transiently off vasopressor --> resumed overnight.
   Remains sedated.
   Developed A-fib with rapid rate = 150-160, associated with
   hypotension.  Resolved spontaneously, but necessitated increased
   vasopressors, adjustment of ventilator.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-22**] 08:00 PM
   Cefipime - [**2156-9-23**] 12:00 AM
   Infusions:
   Propofol - 12 mcg/Kg/min
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-9-23**] 11:59 PM
   Pantoprazole (Protonix) - [**2156-9-24**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-9-24**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 100 (87 - 116) bpm
   BP: 96/55(69) {87/49(63) - 126/92(94)} mmHg
   RR: 25 (21 - 44) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   CVP: 12 (5 - 14)mmHg
   Total In:
                                                                  3,633 mL
                                                                  2,439 mL
   PO:
   TF:
                                                                    584 mL
                                                                    307 mL
   IVF:
                                                                  2,314 mL
                                                                  2,033 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,560 mL
                                                                    960 mL
   Urine:
                                                                  1,560 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,073 mL
                                                                  1,479 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Sao2 < 90%, Unstable Airway
   PIP: 36 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 14.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : Diffuse expiratory, No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   114 K/uL
   131 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.5 mEq/L
   15 mg/dL
   116 mEq/L
   141 mEq/L
   26.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2156-9-21**]  06:13 PM
                             [**2156-9-21**]  09:11 PM
                             [**2156-9-21**]  10:21 PM
                             [**2156-9-22**]  12:15 AM
                             [**2156-9-22**]  02:34 AM
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
                             [**2156-9-22**]  05:42 PM
                             [**2156-9-23**]  04:23 AM
                             [**2156-9-24**]  03:37 AM
   WBC
   10.6
   9.8
   7.2
   Hct
   31
   28.1
   25.8
   26.6
   Plt
   169
   137
   114
   Cr
   0.7
   0.8
   0.8
   0.6
   TCO2
   22
   22
   23
   24
   25
   25
   24
   Glucose
   84
   88
   88
   131
   Other labs: PT / PTT / INR:14.3/39.1/1.2, Differential-Neuts:84.3 %,
   Band:0.0 %, Lymph:10.2 %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.2
   mmol/L, LDH:154 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Sepsis
   RESPIRATORY FAILURE -- persistent;  bronchospasm today --> possible
   reactive airways in setting of infection.  Would add steroids.
   SEPSIS -- slowly responding to current therapy.  Suspect pneumonia
   (?staph areus).  Continue suportive care.  Continue antimicrobials.
   HYPOTENSION -- attributed to hypovolemia and sepsis (CVP <8).  Continue
   to volume resussitate, maintain vasopressor.  Propofol may be
   contributing to hypotension.
   FLUIDS -- hypovolemia.  Continue to iv resussitate to CVP >8 cm H2O.
   NUTRITIONAL SUPPORT -- TF @ goal.
   RENAL FUCTION -- preserved.  monitor urine output, BUN, creatinine.
   THROMBOCYTOPENIA -- d/c heparin, check HIT antibodies.
   A-FIB
 new onset, likely related to sepsis.  Now spontaneously
   resolved.  Plan Digoxin for control as needed.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-24**] 03:34 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2156-9-20**] 10:00 PM
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 75 minutes
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Addendum:
   Family Meeting:  Family meeting with 3 daughters (including HCP,
   [**Name (NI) 4181**], nursing and social work.  Updated medical condition and
   answered all questions.  All understand severity of illness (severe
   sepsis) and associated high mortality, and lack of progress over the
   course of current ICU admission.  Plan to continue current level of
   care, and reassess daily.  Will review progress by Monday, and decide
   whether to advance to tracheotomy/PEG (if making progress), or whether
   to change goals of care to focus on comfort.  Pt. remains DNR in the
   event of cardiac arrest.  All in agreement.  Total time for meeting= 75
   minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 619**], MD
   on:[**2156-9-24**] 18:19 ------

2156-09-25 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2156-9-24**] 11:47 AM
 BLOOD CULTURED - At [**2156-9-24**] 11:47 AM
 EKG - At [**2156-9-24**] 07:45 PM
   Patient went into atrial tachycardia (MAT vs. aflutter vs. afib)
   yesterday AM -HR upto 150s, hypotensive as low as 60s
   -got total 10mg IV diltiazem, 6mg IV adenosine, dig loaded
   -converted to NSR
   -overnight dig dose held because NSR
   cardiac enzymes: negative
   pressors: Levophed 0.03mcg/kg/min and Neosynephrine weaned off
   no BM -concern for ileus: KUB okay. Okay to use NG tube for Tube feeds
   Nutrition recs: start probalance goal rate of 45 mL/hr x24 hours
   -monitor residuals q4h, hold if >150mL
   family meeting yesterday regarding trach and PEG placement -agreed that
   if not off vent on [**Last Name (LF) 570**], [**First Name3 (LF) 178**] readdress issue
   IP saw: can perform bedside percutaneous trach and PEG on Tuesday if
   still on vent
   sent HITT labs -pending
   has large amount of thick yellow sputum -sputum cultures sent
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-24**] 09:00 PM
   Cefipime - [**2156-9-25**] 12:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 24 mcg/Kg/min
   Other ICU medications:
   Diltiazem - [**2156-9-24**] 11:05 AM
   Adenosine - [**2156-9-24**] 11:15 AM
   Pantoprazole (Protonix) - [**2156-9-24**] 02:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-25**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 95 (79 - 172) bpm
   BP: 100/48(64) {69/44(56) - 150/95(111)} mmHg
   RR: 22 (22 - 62) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,424 mL
                                                                    496 mL
   PO:
             TF:
                                                                    640 mL
                                                                    289 mL
   IVF:
                                                                  2,684 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    785 mL
   Urine:
                                                                  3,000 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    424 mL
                                                                   -289 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 35 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.35/39/410/25/-3
   Ve: 13.7 L/min
   PaO2 / FiO2: 1,025
   Physical Examination
   Gen: Intubated and sedated. NAD
   Lungs: Bilateral rhonchi with expiratory wheezes throughout.
   CV: RRR. No murmurs.
   Abd: Soft, NT, ND.
   Extremities: Warm, well perfused.
   Labs / Radiology
   107 K/uL
   9.5 g/dL
   133 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   12 mg/dL
   117 mEq/L
   145 mEq/L
   27.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2156-9-22**]  12:15 AM
                             [**2156-9-22**]  02:34 AM
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
                             [**2156-9-22**]  05:42 PM
                             [**2156-9-23**]  04:23 AM
                             [**2156-9-24**]  03:37 AM
                             [**2156-9-24**]  10:42 AM
                             [**2156-9-24**]  11:33 AM
                             [**2156-9-25**]  03:46 AM
   WBC
   10.6
   9.8
   7.2
   6.4
   Hct
   28.1
   25.8
   26.6
   27.8
   Plt
   169
   137
   114
   107
   Cr
   0.8
   0.8
   0.6
   0.5
   TropT
   0.02
   TCO2
   23
   24
   25
   25
   24
   23
   22
   Glucose
   88
   88
   131
   133
   Other labs: PT / PTT / INR:13.6/32.1/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assesment: 89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS
   likely due to aspiration event.
   Plan:
   # Respiratory failure, pt. currently day 6 intubation.
   Due to aspiration event, patient meets ARDS criteria.
   -Patient Failed  SBTs.  Will continue daily SBT, RSBI and daily wake
   ups to assess his status.
   - wean FiO2 and PEEP to optimize oxygenation
   - daily CXR
   - titrate RR and TV to optimize acid/base status.  Permissive
   hypercapnia of pH >7.25
   - Readdress vent weaning, possble trachiostomy (maybe placed anytime
   day [**8-19**]), and goals for care on [**Month/Year (2) 570**].
   -f/u sputum culture
   -consider lasix for pulmonary edema
   #Tachycardia:
   -Cardiac enzymes negative
   -complete dig load today
will start daily dose of dig tomorrow
   -follow daily EKGs
   -replete electrolytes
   # Septic shock/Hypotension
   -will try to wean levophed but maintain MAP >60, but may be difficult
   [**3-13**] propofol, will try Fentanyl/versed
   - IV fluids to goal CVP 10-12
 Print CVP tracing [**Hospital1 **] to assess.
   -follow I&O, maintain urine output >30cc/hr
   - Sputum cx possitive for Staph aureus
   - Broad spectrum antibiotics with Vancomycin(day 4), Cefepime(day 4) to
   cover pulmonary and GU sources, narrow abx pending sensitivities
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   .
   #GI care: Patient without BM since Sunday
   - Abd film today
   - Will start bowel regimen
lactulose today
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia
   - patient with plt trending down since admit
   - D/C SQ heparin
   - Send off HIT Ab -pending
   .
   # Anemia: Crit drop 2 pts today to 26.
   - Guaiac stools.
   - Check HCT q8
   - Transfuse 1 U PRBC today to keep Hct above 27.8 -stable
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: Tolerating TFs well.  Replace lytes, including phos (nutriphos
   PO/NG). Goal diurese 500-1000mL
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-25**] 04:47 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-9-20**] 10:00 PM
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-25 11:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2156-9-24**] 11:47 AM
 URINE CULTURE - At [**2156-9-24**] 11:47 AM
 EKG - At [**2156-9-24**] 07:45 PM
   Experienced episode of supraventricular tachycardia yesterday,
   attributed to A-fib (new) --> resolved in response to Diltiazem,
   Digoxin.  (Adenosine admimistration revealed flutter waves).
   Remains intubated, mechanically ventilation.  Propofol for sedation.
   Required 2^nd vasopressor yesterday to maintain MAP >60 mmHg.  Now on
   Levophed alone.
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-24**] 09:00 PM
   Cefipime - [**2156-9-25**] 12:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 24 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2156-9-24**] 11:15 AM
   Pantoprazole (Protonix) - [**2156-9-24**] 02:09 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-9-25**] 11:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.6
C (97.8
   HR: 87 (79 - 155) bpm
   BP: 88/44(59) {77/44(59) - 150/95(111)} mmHg
   RR: 26 (22 - 62) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,424 mL
                                                                    720 mL
   PO:
             TF:
                                                                    640 mL
                                                                    433 mL
   IVF:
                                                                  2,684 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                    785 mL
   Urine:
                                                                  3,000 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    424 mL
                                                                    -65 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.35/39/410/25/-3
   Ve: 13.1 L/min
   PaO2 / FiO2: 1,025
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.5 g/dL
   107 K/uL
   133 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   12 mg/dL
   117 mEq/L
   145 mEq/L
   27.8 %
   6.4 K/uL
        [image002.jpg]
                             [**2156-9-22**]  12:15 AM
                             [**2156-9-22**]  02:34 AM
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
                             [**2156-9-22**]  05:42 PM
                             [**2156-9-23**]  04:23 AM
                             [**2156-9-24**]  03:37 AM
                             [**2156-9-24**]  10:42 AM
                             [**2156-9-24**]  11:33 AM
                             [**2156-9-25**]  03:46 AM
   WBC
   10.6
   9.8
   7.2
   6.4
   Hct
   28.1
   25.8
   26.6
   27.8
   Plt
   169
   137
   114
   107
   Cr
   0.8
   0.8
   0.6
   0.5
   TropT
   0.02
   TCO2
   23
   24
   25
   25
   24
   23
   22
   Glucose
   88
   88
   131
   133
   Other labs: PT / PTT / INR:13.6/32.1/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR ([**2156-9-25**])  no significant change
   Assessment and Plan
   Sepsis.
   RESPIRATORY FAILURE
 persistent.  Multifactorial.  Suspect pneumonia,
   possible ARDS, although may be component of CHF and/or bronchospasm
   (wheezes may be primary bronchospasm or cardiac wheezes).  Continue
   mechanical ventilation.  Monitor ABG.
   WHEEZES
 cardiac vs bronchospasm.  Plan empircal diuresis.  If no
   resolution, the add steroids.
   SEPSIS
 severe.  Slow response to current therapy.  Pulmonary vs.
   urinary source.
   HYPOTENSION
 sepsis, hypovolemia.  Transfuse & iv replete and
   vasopressors to MAP= 60 mmHg.
   A-FIB -- new dysrhythmia.  Stable currently, s/p Digoxin
 monitor
   level.
   ANEMIA
 stable, monitor Hct, maintain >28
   RENAL FUNCTION
 preserved.  Monitor uo, bun, creatinine.
   FLUIDS -- desire net negative.  Maintin CVP >8 cm H2O.  Monitor I/O,
   urine output.
   NUTRITIONAL SUPPORT
 TF @ goal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2156-9-20**] 10:00 PM
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2156-09-26 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continues to have thick yellow secretions.  RSBI ~117 this AM.
   Continues to need levophed 0.02mcg for MAP 55-70.  Daily dig today
   Minimal change overnight
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-25**] 08:00 PM
   Cefipime - [**2156-9-26**] 12:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2156-9-25**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-26**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 85 (84 - 99) bpm
   BP: 93/47(63) {79/43(56) - 108/56(73)} mmHg
   RR: 25 (24 - 52) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,660 mL
                                                                    349 mL
   PO:
             TF:
                                                                    899 mL
                                                                    255 mL
   IVF:
                                                                  1,342 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  3,335 mL
                                                                      0 mL
   Urine:
                                                                  3,335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -675 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: 7.43/44/113/26/3
   Ve: 13.3 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Intubated, sedated, does not respond to verbal commands
   CV- RRR no M/R/G
   Pulm- Rhonchi heard anteriorly
   Abd- soft, distended, BS not heard
   Extr- Art line inplace without erythema, Edematous in Upper and lower
   extremities, Pulses 2+ symmetric
   Labs / Radiology
   104 K/uL
   9.3 g/dL
   120 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   14 mg/dL
   116 mEq/L
   145 mEq/L
   26.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
                             [**2156-9-22**]  05:42 PM
                             [**2156-9-23**]  04:23 AM
                             [**2156-9-24**]  03:37 AM
                             [**2156-9-24**]  10:42 AM
                             [**2156-9-24**]  11:33 AM
                             [**2156-9-25**]  03:46 AM
                             [**2156-9-26**]  03:44 AM
                             [**2156-9-26**]  04:15 AM
   WBC
   10.6
   9.8
   7.2
   6.4
   5.9
   Hct
   28.1
   25.8
   26.6
   27.8
   26.6
   Plt
   169
   137
   114
   107
   104
   Cr
   0.8
   0.8
   0.6
   0.5
   0.6
   TropT
   0.02
   TCO2
   25
   25
   24
   23
   22
   30
   Glucose
   88
   88
   131
   133
   120
   Other labs: PT / PTT / INR:13.6/32.1/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   Assesment: 89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS
   likely due to aspiration event.
   Plan:
   # Respiratory failure, pt. currently day 7 intubation.
   Due to aspiration event, patient meets ARDS criteria.
   -Patient with poor RSBI today, no SBT.  Will continue daily SBT, RSBI
   and daily wake ups to assess his status.
   - Reduce Resp rate to 20  today as his pH was 7.43
   - wean FiO2 and PEEP to optimize oxygenation
   - daily CXR
   - titrate RR and TV to optimize acid/base status.  Permissive
   hypercapnia of pH >7.25
   - Readdress vent weaning, possble trachiostomy (maybe placed anytime
   day [**8-19**]), and goals for care on Monday. *Patient is on schedule for
   bedside trach on Tues, but will readdress with family prior to that.
   -consider lasix for pulmonary edema
   # Septic shock/Hypotension
   -will try to wean levophed but maintain MAP >60, but may be difficult
   [**3-13**] propofol
   - IV fluids to goal CVP 10-12
 Print CVP tracing [**Hospital1 **] to assess.
   -follow I&O, maintain urine output >30cc/hr
   - Sputum cx possitive for Staph aureus
   - Broad spectrum antibiotics with Vancomycin(day 6), Cefepime(day 6) to
   cover pulmonary and GU sources, narrow abx pending sensitivities
   #Tachycardia: Remained in sinus rhythm overnight
   -start daily dose of dig
   -follow daily EKGs
   -replete electrolytes
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   .
   #GI care: Patient without BM since Sunday
   - Abd film showed no ileus or obstruction
   - continue bowel regimen
lactulose today
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia: Stablized today at ~100
   - patient with plt trending down since admit
   - D/C SQ heparin
   - HIT Ab -pending
   .
   # Anemia: Crit drop 2 pts today to 26.
   - Guaiac stools.
   - Check HCT daily
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: Tolerating TFs well.  Replace lytes, including phos (nutriphos
   PO/NG). Goal diurese 500-1000mL
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-26 10:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on vasopressor to maintain MAP >60 mmHg.
   Completed Digoxin load for a-fib.  Rate remained controlled.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy, Language
   barrier, Intubated.
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-25**] 08:00 PM
   Cefipime - [**2156-9-26**] 12:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 24 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2156-9-25**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-9-26**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 86 (73 - 99) bpm
   BP: 102/47(65) {79/43(56) - 108/56(73)} mmHg
   RR: 26 (25 - 52) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  2,661 mL
                                                                    908 mL
   PO:
             TF:
                                                                    899 mL
                                                                    421 mL
   IVF:
                                                                  1,342 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                  3,335 mL
                                                                    810 mL
   Urine:
                                                                  3,335 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -674 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 117
   PIP: 33 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.43/44/113/26/3
   Ve: 13.8 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Prolonged expiratory phase.
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   104 K/uL
   120 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   14 mg/dL
   116 mEq/L
   145 mEq/L
   26.6 %
   5.9 K/uL
        [image002.jpg]
                             [**2156-9-22**]  04:51 AM
                             [**2156-9-22**]  05:05 AM
                             [**2156-9-22**]  05:42 PM
                             [**2156-9-23**]  04:23 AM
                             [**2156-9-24**]  03:37 AM
                             [**2156-9-24**]  10:42 AM
                             [**2156-9-24**]  11:33 AM
                             [**2156-9-25**]  03:46 AM
                             [**2156-9-26**]  03:44 AM
                             [**2156-9-26**]  04:15 AM
   WBC
   10.6
   9.8
   7.2
   6.4
   5.9
   Hct
   28.1
   25.8
   26.6
   27.8
   26.6
   Plt
   169
   137
   114
   107
   104
   Cr
   0.8
   0.8
   0.6
   0.5
   0.6
   TropT
   0.02
   TCO2
   25
   25
   24
   23
   22
   30
   Glucose
   88
   88
   131
   133
   120
   Other labs: PT / PTT / INR:13.6/32.1/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR (/[**2156-9-26**])  no significant interval change.  ETT still
   remains somewhat elevated.
   Assessment and Plan
   Sepsis.
   RESPIRATORY FAILURE -- Persistent.  Limited progress.  RSBI unfavorable
   for SBT.  ABG --> would decrease Ve to allow pH= 7.35-7.40.  Suspect
   would benefit from tracheotomy if acceptable to patient and family.
   Probable ARDS and underlying COPD.  Check for intrinsic peak.
   SEPSIS -- persistent.  Continue empirical antimicrobials for 10 day
   course.
   HYPOTENSION -- attributed to sepsis.  Continue vasopressor to maintain
   MAP >60 mmHg.
   A-FIB -- continue po Digoxin.
   RENAL FUNCTION -- preserved.  Monitor uo, BUN, creat.
   NUTRITIONAL SUPORT -- TF @ goal.
   PARKINSON'S DISEASE -- continue usual meds.
   FLUIDS -- monitor CVP.  Monitor I/O.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-26**] 06:20 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2156-09-27 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Febrile to 100.7 yesterday, BCx sent and APAP given
   RSBI of 94 today, SBT Failed with Vt of <150 and RR of 19
   Off Norepi since 11 am yesterday, Given 20 mg Lasix to keep pt even and
   keep MAP>60
   BM x1 yesterday and x1 this am
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-26**] 08:00 PM
   Cefipime - [**2156-9-27**] 12:00 AM
   Infusions:
   Propofol - 24 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2156-9-27**] 01:30 AM
   Pantoprazole (Protonix) - [**2156-9-27**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-27**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (98.9
   HR: 82 (71 - 88) bpm
   BP: 100/54(68) {83/44(57) - 113/90(99)} mmHg
   RR: 60 (20 - 60) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 53.4 kg
   Height: 62 Inch
    CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  2,143 mL
                                                                    632 mL
   PO:
   TF:
                                                                    965 mL
                                                                    285 mL
   IVF:
                                                                    747 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  1,648 mL
                                                                    820 mL
   Urine:
                                                                  1,648 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    495 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 94
   PIP: 34 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: 7.37/54/101/27/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen- Intubated, sedated, no response to verbal commands
   Pupils- 4mm ERRL
   CV- RRR, no M/R/G
   Pulm- Rhonchi throughout anterior  Upper and lower lung fields, no
   wheezes/rales
   Abd- Remains moderately distended, soft
   Extr- WWP, 3+ edema in all 4 extremities, R IJ and R Art line appear
   clean without erythema
   Labs / Radiology
   116 K/uL
   9.5 g/dL
   119 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   15 mg/dL
   112 mEq/L
   142 mEq/L
   28.6 %
   7.3 K/uL
        [image002.jpg]
                             [**2156-9-23**]  04:23 AM
                             [**2156-9-24**]  03:37 AM
                             [**2156-9-24**]  10:42 AM
                             [**2156-9-24**]  11:33 AM
                             [**2156-9-25**]  03:46 AM
                             [**2156-9-26**]  03:44 AM
                             [**2156-9-26**]  04:15 AM
                             [**2156-9-26**]  02:36 PM
                             [**2156-9-27**]  04:05 AM
                             [**2156-9-27**]  04:33 AM
   WBC
   9.8
   7.2
   6.4
   5.9
   7.3
   Hct
   25.8
   26.6
   27.8
   26.6
   28.6
   Plt
   137
   114
   107
   104
   116
   Cr
   0.8
   0.6
   0.5
   0.6
   0.6
   TropT
   0.02
   TCO2
   24
   23
   22
   30
   29
   32
   Glucose
   88
   131
   133
   120
   119
   Other labs: PT / PTT / INR:13.6/32.1/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Assesment: 89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS
   likely due to aspiration event.
   Plan:
   # Respiratory failure, pt. currently day 8 intubation.
   Due to aspiration event, patient meets ARDS criteria.
   -Patient with poor RSBI today, and failed SBT.  Will continue daily
   SBT, RSBI and daily wake ups to assess his status.
   - daily CXR
   - titrate RR and TV to optimize acid/base status.  Permissive
   hypercapnia of pH >7.25
   - Most recent pH was 7.37 with RR 20
   - Patient off pressors today, possible tracheostomy although will
   monitor today and attempt to diurese
   - ? Trach and goals for care today. *Patient is on schedule for bedside
   trach on Tues, but will readdress with family prior to that.
   -  lasix for -500 to 1000 cc as BP tolerates to reduce pulmonary edema
   # Fever: O/N to 100.3
   -Sputum Cx, U/A with Urine Cx, Blood Cx
   - Send C diff toxin
   - PE another possibility as pt off Heparin for ? HIT: LENI
s today
   # Septic shock/Hypotension
   -Patient able to stay off Norepi and maintain MAP >60, remains on
   propofol
   - IV fluids to goal CVP 10-12
 Print CVP tracing [**Hospital1 **] to assess.
   - Given good MAP, Will diurese [**Telephone/Fax (1) 1335**] cc today
   - Sputum cx possitive for MRSA
   - Broad spectrum antibiotics with Vancomycin(day 7), Cefepime(day 7) to
   cover pulmonary and GU sources
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   -Change today, will observe with wound care
   .
   #Tachycardia: Remained in sinus rhythm overnight
   -Continue dig
   -replete electrolytes
   #GI care: Patient with 2 BM overnight
   - continue bowel regimen
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia: Stablized today at ~100
   - patient with plt trending down since admit
   - D/C SQ heparin
   - HIT Ab -pending
   .
   # Anemia: Hct stable
   - Check HCT daily
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: Tolerating TFs well.  Replace lytes, including phos (nutriphos
   PO/NG). Goal diurese 500-1000mL
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-27**] 06:14 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-28 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2156-9-27**] 01:00 PM
   lenis bedside negative for DVT
   -Pt given IV lasix 40 and diuresed 2 L out.  Pressures dropped and
   needed 250 cc boluses x2
   -Hypotension to MAP of 40, restarted on Levaphed (0.06 this AM) to
   maintain MAPs above 60
   -No RSBI done due to hypotension
   -Sputum Cx from [**9-27**] with GPC in clusters. Sputum Cx from [**9-21**] with
   MRSA.
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-27**] 07:14 PM
   Cefipime - [**2156-9-27**] 11:26 PM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Propofol - 24 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2156-9-27**] 07:14 PM
   Pantoprazole (Protonix) - [**2156-9-28**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-28**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.2
   HR: 88 (73 - 90) bpm
   BP: 90/43(60) {73/40(55) - 105/66(75)} mmHg
   RR: 35 (19 - 70) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55 kg (admission): 53.4 kg
   Height: 62 Inch
    CVP: 10 (2 - 11)mmHg
   Total In:
                                                                  2,173 mL
                                                                  1,010 mL
   PO:
   TF:
                                                                    908 mL
                                                                    240 mL
   IVF:
                                                                    755 mL
                                                                    670 mL
   Blood products:
   Total out:
                                                                  4,060 mL
                                                                    840 mL
   Urine:
                                                                  4,060 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,887 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 35 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: ///31/
   Ve: 11 L/min
   Physical Examination
   Gen- Intubated, sedated, no response to verbal commands
   Pupils- 4mm ERRL
   CV- RRR, no M/R/G
   Pulm- Rhonchi throughout anterior  Upper and lower lung fields, no
   wheezes/rales
   Abd- Remains moderately distended, soft
   Extr- WWP, 3+ edema in all 4 extremities, R IJ and R Art line appear
   clean without erythema
   Labs / Radiology
   165 K/uL
   9.1 g/dL
   124 mg/dL
   0.6 mg/dL
   31 mEq/L
   3.2 mEq/L
   17 mg/dL
   107 mEq/L
   143 mEq/L
   26.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2156-9-24**]  03:37 AM
                             [**2156-9-24**]  10:42 AM
                             [**2156-9-24**]  11:33 AM
                             [**2156-9-25**]  03:46 AM
                             [**2156-9-26**]  03:44 AM
                             [**2156-9-26**]  04:15 AM
                             [**2156-9-26**]  02:36 PM
                             [**2156-9-27**]  04:05 AM
                             [**2156-9-27**]  04:33 AM
                             [**2156-9-28**]  03:53 AM
   WBC
   7.2
   6.4
   5.9
   7.3
   9.4
   Hct
   26.6
   27.8
   26.6
   28.6
   26.9
   Plt
   114
   107
   104
   116
   165
   Cr
   0.6
   0.5
   0.6
   0.6
   0.6
   TropT
   0.02
   TCO2
   23
   22
   30
   29
   32
   Glucose
   131
   133
   120
   119
   124
   Other labs: PT / PTT / INR:13.6/32.1/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, SEPTIC
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 TACHYCARDIA, OTHER
 PARKINSON'S DISEASE
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, OTHER
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
   89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS likely due to
   aspiration event.
   Plan:
   # Respiratory failure, pt. currently day 8 intubation.
   Due to aspiration event, patient meets ARDS criteria.
   -No RSBI today [**3-13**] hypotension, and failed SBT.  Will continue daily
   SBT, RSBI and daily wake ups to assess his status.
   - daily CXR
   - titrate RR and TV to optimize acid/base status.  Permissive
   hypercapnia of pH >7.25
   - ? Trach and goals for care today. *Patient is on schedule for bedside
   trach Today, but will readdress with family prior to that.
   Main issue is whether to do both trach and PEG tube for aggressive care
   or to hold off and scale back care
   # Fever:  to 100.3 on [**2156-9-26**]
   -Sputum Cx with GPC in clusters despite Vanc Tx, F/U cx and
   sensitivities
   - C diff toxin Negative
   - PE another possibility as pt off Heparin for ? HIT: LENI
s Negative.
   -Will do CTA for ? PE if Family still wants aggressive care after
   meeting today
   # Septic shock/Hypotension
   -Patient back on Norepi and maintain MAP >60, remains on propofol
   Trached, can stop propafol to help pressures
   - IV fluids to wean off pressors today for Possible trach.
   - Sputum cx possitive for MRSA
   - Broad spectrum antibiotics with Vancomycin(day 8), Cefepime(day 8) to
   cover pulmonary and GU sources
   # Metabolic Alkalosis:  Patient with bicarb of 32, likely due to
   diuresis but may be compensated to resp acidosis
   -repleat K to 4.5
   -continue to monitor
   -Chem 10 in PM -> replace lytes as needed
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   -Change today, will observe with wound care
   .
   #Tachycardia: Remained in sinus rhythm overnight
   -Continue dig
   -replete electrolytes
   #GI care: Patient with 2 BM overnight
   - continue bowel regimen
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia:
   - patient with plt trending down since admit
   - HIT Ab - Negative
   .
   # Anemia: Hct stable
   - Check HCT daily
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: D/C TFs for possible trach today.  Replace lytes, including phos
   more aggressively (nutriphos PO/NG).
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots, Heparin SQ
   given Negative HIT Ab
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-28**] 06:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Arterial Line - [**2156-9-21**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-29 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2156-9-28**] 03:00 PM
   IP: Trach/PEG today at 0800
   Large amount of yellow sputum suctioned.  RSBI  was 117
   Off levaphed with MAPs in high 50s, Given total of 3L NS boluses
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-28**] 07:31 PM
   Cefipime - [**2156-9-28**] 11:58 PM
   Infusions:
   Propofol - 24 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-9-28**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-29**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 69 (61 - 85) bpm
   BP: 87/45(55) {76/44(52) - 110/64(75)} mmHg
   RR: 21 (20 - 44) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 53.4 kg
   Height: 62 Inch
    CVP: 3 (3 - 353)mmHg
   Total In:
                                                                  4,741 mL
                                                                    540 mL
   PO:
   TF:
                                                                    748 mL
   IVF:
                                                                  3,653 mL
                                                                    540 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    500 mL
   Urine:
                                                                  2,190 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,551 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 36 cmH2O
   Plateau: 30 cmH2O
   SpO2: 98%
   ABG: ///30/
   Ve: 9.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   169 K/uL
   8.7 g/dL
   90 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.5 mEq/L
   16 mg/dL
   110 mEq/L
   144 mEq/L
   26.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2156-9-24**]  11:33 AM
                             [**2156-9-25**]  03:46 AM
                             [**2156-9-26**]  03:44 AM
                             [**2156-9-26**]  04:15 AM
                             [**2156-9-26**]  02:36 PM
                             [**2156-9-27**]  04:05 AM
                             [**2156-9-27**]  04:33 AM
                             [**2156-9-28**]  03:53 AM
                             [**2156-9-28**]  05:48 PM
                             [**2156-9-29**]  04:00 AM
   WBC
   6.4
   5.9
   7.3
   9.4
   8.0
   Hct
   27.8
   26.6
   28.6
   26.9
   26.4
   Plt
   107
   104
   116
   165
   169
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   22
   30
   29
   32
   Glucose
   133
   120
   119
   124
   115
   90
   Other labs: PT / PTT / INR:13.6/28.7/1.1, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, SEPTIC
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 TACHYCARDIA, OTHER
 PARKINSON'S DISEASE
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, OTHER
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
   89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS likely due to
   aspiration event.
   Plan:
   # Respiratory failure, pt. currently day 8 intubation.
   Due to aspiration event, patient meets ARDS criteria.
   -No RSBI today [**3-13**] hypotension, and failed SBT.  Will continue daily
   SBT, RSBI and daily wake ups to assess his status.
   - daily CXR
   - titrate RR and TV to optimize acid/base status.  Permissive
   hypercapnia of pH >7.25
   - ? Trach and goals for care today. *Patient is on schedule for bedside
   trach Today, but will readdress with family prior to that.
   Main issue is whether to do both trach and PEG tube for aggressive care
   or to hold off and scale back care
   # Fever:  to 100.3 on [**2156-9-26**]
   -Sputum Cx with GPC in clusters despite Vanc Tx, F/U cx and
   sensitivities
   - C diff toxin Negative
   - PE another possibility as pt off Heparin for ? HIT: LENI
s Negative.
   -Will do CTA for ? PE if Family still wants aggressive care after
   meeting today
   # Septic shock/Hypotension
   -Patient back on Norepi and maintain MAP >60, remains on propofol
   Trached, can stop propafol to help pressures
   - IV fluids to wean off pressors today for Possible trach.
   - Sputum cx possitive for MRSA
   - Broad spectrum antibiotics with Vancomycin(day 8), Cefepime(day 8) to
   cover pulmonary and GU sources
   # Metabolic Alkalosis:  Patient with bicarb of 32, likely due to
   diuresis but may be compensated to resp acidosis
   -repleat K to 4.5
   -continue to monitor
   -Chem 10 in PM -> replace lytes as needed
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   -Change today, will observe with wound care
   .
   #Tachycardia: Remained in sinus rhythm overnight
   -Continue dig
   -replete electrolytes
   #GI care: Patient with 2 BM overnight
   - continue bowel regimen
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia:
   - patient with plt trending down since admit
   - HIT Ab - Negative
   .
   # Anemia: Hct stable
   - Check HCT daily
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: D/C TFs for possible trach today.  Replace lytes, including phos
   more aggressively (nutriphos PO/NG).
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots, Heparin SQ
   given Negative HIT Ab
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  ICU
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-29 10:32:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2156-9-28**] 03:00 PM
   Remains intubated, mechanically ventilated.
   Bedside Tracheotomy and PEG placed this AM, without complications.
   Received extra doses of Fentanyl, Propofol and Vecuronium.
   Remains off vasopressor.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-28**] 07:31 PM
   Cefipime - [**2156-9-28**] 11:58 PM
   Infusions:
   Propofol - 24 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-9-28**] 11:59 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-9-29**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 87 (56 - 87) bpm
   BP: 109/55(68) {76/44(52) - 121/66(78)} mmHg
   RR: 14 (14 - 48) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 50 kg (admission): 53.4 kg
   Height: 62 Inch
   CVP: 342 (3 - 353)mmHg
   Total In:
                                                                  4,741 mL
                                                                    652 mL
   PO:
   TF:
                                                                    748 mL
   IVF:
                                                                  3,653 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    705 mL
   Urine:
                                                                  2,190 mL
                                                                    705 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,551 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 34 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, Paralyzed, Tone: Decreased
   Labs / Radiology
   8.7 g/dL
   169 K/uL
   90 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.5 mEq/L
   16 mg/dL
   110 mEq/L
   144 mEq/L
   26.4 %
   8.0 K/uL
        [image002.jpg]
                             [**2156-9-24**]  11:33 AM
                             [**2156-9-25**]  03:46 AM
                             [**2156-9-26**]  03:44 AM
                             [**2156-9-26**]  04:15 AM
                             [**2156-9-26**]  02:36 PM
                             [**2156-9-27**]  04:05 AM
                             [**2156-9-27**]  04:33 AM
                             [**2156-9-28**]  03:53 AM
                             [**2156-9-28**]  05:48 PM
                             [**2156-9-29**]  04:00 AM
   WBC
   6.4
   5.9
   7.3
   9.4
   8.0
   Hct
   27.8
   26.6
   28.6
   26.9
   26.4
   Plt
   107
   104
   116
   165
   169
   Cr
   0.5
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   22
   30
   29
   32
   Glucose
   133
   120
   119
   124
   115
   90
   Other labs: PT / PTT / INR:13.6/28.7/1.1, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- multifactorial, including sepsis, pneumonia,
   ARDS, COPD exacerbation, possible pulmonary edema.  Continue mechanical
   ventilation, now via trach.   Hope to d/c or limit sedation.
   COPD EXACERBATION -- improved response on current regimen.  Improved
   auto-PEEP
   SHOCK, SEPTIC -- improved.  Monitor off vasopressors.  Maintain MAP >
   60 mmHg
   DECUBITUS ULCER (PRESENT AT ADMISSION) -- local care
   TACHYCARDIA -- A-fib, controlled.
   PARKINSON'S DISEASE -- continue
   THROMBOCYTOPENIA -- improved
   ANEMIA -- predominately phlebotomy, with now possible contribution of
   trach and PEG.
   NUTRITIONAL SUPPORT -- initiate TF after 24 hrs.
   FLUIDS -- attempt to net diurese if BP tolerates.
   DISPOSITION
 iniitate screening for rehab placement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:   45

2156-09-30 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2156-9-29**] 08:30 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2156-9-29**] 08:51 AM
 EKG - At [**2156-9-29**] 11:00 PM
   Trach and PEG yesterday without complications.
   Propafol off since mid-day yesterday but patient not waking up
 still
   with pupilary reflex, but not withdrawing to pain or moving
   spontaneously.
   RSBI 93 today, spont RR 25, Spont Vt 268
   Abx d/c
d yesterday
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-28**] 07:31 PM
   Cefipime - [**2156-9-28**] 11:58 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-9-29**] 06:00 PM
   Heparin Sodium (Prophylaxis) - [**2156-9-30**] 12:00 AM
   Pantoprazole (Protonix) - [**2156-9-30**] 02:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-9-30**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 82 (56 - 109) bpm
   BP: 106/53(66) {85/45(55) - 122/66(78)} mmHg
   RR: 19 (14 - 48) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50 kg (admission): 53.4 kg
   Height: 62 Inch
    CVP: 6 (4 - 343)mmHg
   Total In:
                                                                  1,704 mL
                                                                    236 mL
   PO:
   TF:
   IVF:
                                                                  1,434 mL
                                                                    131 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                    456 mL
   Urine:
                                                                  2,560 mL
                                                                    451 mL
   NG:
                                                                      5 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -861 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: 7.48/46/117/31/10
   Ve: 10.7 L/min
   PaO2 / FiO2: 293
   Physical Examination
   Gen- Trachiostomy on vent,  no response to verbal commands or sternal
   rub
   Pupils- 4mm ERRL
   CV- RRR, no M/R/G
   Pulm- Rhonchi throughout anterior  Upper and lower lung fields, no
   wheezes/rales
   Abd- soft, BS +, PEG tube in place, dressing C/D/I
   Extr- WWP, 3+ edema in all 4 extremities, R IJ appears clean without
   erythema, No rigidity
   Labs / Radiology
   183 K/uL
   8.3 g/dL
   88 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   16 mg/dL
   108 mEq/L
   142 mEq/L
   24.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2156-9-26**]  02:36 PM
                             [**2156-9-27**]  04:05 AM
                             [**2156-9-27**]  04:33 AM
                             [**2156-9-28**]  03:53 AM
                             [**2156-9-28**]  05:48 PM
                             [**2156-9-29**]  04:00 AM
                             [**2156-9-29**]  10:51 AM
                             [**2156-9-29**]  05:36 PM
                             [**2156-9-30**]  03:31 AM
                             [**2156-9-30**]  03:57 AM
   WBC
   7.3
   9.4
   8.0
   6.7
   Hct
   28.6
   26.9
   26.4
   24.4
   Plt
   116
   165
   169
   183
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   29
   32
   32
   35
   Glucose
   119
   124
   115
   90
   126
   88
   Other labs: PT / PTT / INR:14.1/28.1/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:84.3 %, Band:0.0 %, Lymph:10.2
   %, Mono:2.8 %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, SEPTIC
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 TACHYCARDIA, OTHER
 PARKINSON'S DISEASE
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, OTHER
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
   89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS likely due to
   aspiration event.
   Plan:
   # Altered MS
 [**Name13 (STitle) 53**] off propofol for >12 hrs and has not received
   Morphine.  His extremity exam is not rigid indicating proper treatment
   of his parkinsons.
   -Will continue to observe for 1 more day as patient was sedated for 10
   days and may take some time to clear.
   -Hold morphine or other sedatives
   .
    # Respiratory failure, pt. currently day 10 intubation s/p
   Trachiostomy.
   Due to aspiration event, patient meets ARDS criteria.
   -RSBI 93 today. .
   -Continue daily RSBI and SBT
   - daily CXR
   -Patient with fever 2 days prior and resolving RUL opacity currently
   with low suspicion for VAP, but with tan colored secretions.
   -mini BAL and tracheal aspirate to monitor.
   -If patient spikes or WBC increase, will start Zosyn, Cipro, Vanc for
   presumed VAP and F/U cx.
   -Neg 500-1000m L if pressures tolerate.
   # Metabolic Alkalosis:  Patient with bicarb of 31, likely due to
   diuresis
   -repleat K to 4.5
   -continue to monitor
   -Chem 10 in PM -> replace lytes as needed
   # Anemia: Hct continues to decline slowly
    -Check HCT [**Hospital1 **]
   - guiac stools x3
   - Transfuse if <21
   .
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   .
   #Tachycardia: Remained in sinus rhythm overnight
   -Continue dig
   -replete electrolytes
   #GI care: Patient Starting TF through PEG
   - continue bowel regimen
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia:
   - patient with plt trending down but returning within the normal range
   - HIT Ab - Negative
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: TFs to restart today through PEG.  Replace lytes, including phos
   more aggressively (nutriphos NG).
   .
   # Access- RIJ, place arterial line
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots, Heparin SQ
   given Negative HIT Ab
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  ICU for now but Case management eval for Rehab placement
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-09-30 11:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PEG INSERTION - At [**2156-9-29**] 08:30 AM
 PERCUTANEOUS TRACHEOSTOMY - At [**2156-9-29**] 08:51 AM
 EKG - At [**2156-9-29**] 11:00 PM
   Remains mechanically ventilated via trach.
   Sedation d/c'd, although remains with limited response to stimuli.
   Antimicrobials completed yesterday.
   Brown colored sputum via trach.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-28**] 07:31 PM
   Cefipime - [**2156-9-28**] 11:58 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2156-9-29**] 06:00 PM
   Pantoprazole (Protonix) - [**2156-9-30**] 02:09 AM
   Heparin Sodium (Prophylaxis) - [**2156-9-30**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Tracheotomy
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-9-30**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 82 (80 - 107) bpm
   BP: 108/53(66) {85/45(55) - 122/66(79)} mmHg
   RR: 18 (18 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 53.4 kg
   Height: 62 Inch
   CVP: 7 (4 - 338)mmHg
   Total In:
                                                                  1,704 mL
                                                                    443 mL
   PO:
   TF:
   IVF:
                                                                  1,434 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  2,565 mL
                                                                    801 mL
   Urine:
                                                                  2,560 mL
                                                                    796 mL
   NG:
                                                                      5 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                   -861 mL
                                                                   -359 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.48/46/117/31/10
   Ve: 8.9 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, No cog-wheeling
   Labs / Radiology
   8.3 g/dL
   183 K/uL
   88 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.1 mEq/L
   16 mg/dL
   108 mEq/L
   142 mEq/L
   24.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2156-9-26**]  02:36 PM
                             [**2156-9-27**]  04:05 AM
                             [**2156-9-27**]  04:33 AM
                             [**2156-9-28**]  03:53 AM
                             [**2156-9-28**]  05:48 PM
                             [**2156-9-29**]  04:00 AM
                             [**2156-9-29**]  10:51 AM
                             [**2156-9-29**]  05:36 PM
                             [**2156-9-30**]  03:31 AM
                             [**2156-9-30**]  03:57 AM
   WBC
   7.3
   9.4
   8.0
   6.7
   Hct
   28.6
   26.9
   26.4
   24.4
   Plt
   116
   165
   169
   183
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   29
   32
   32
   35
   Glucose
   119
   124
   115
   90
   126
   88
   Other labs: PT / PTT / INR:14.1/28.1/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:80.5 %, Band:0.0 %, Lymph:14.8
   %, Mono:2.7 %, Eos:1.7 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR ([**2156-9-30**])  bilateral infiltrates, but inproved compared to
   [**2156-9-29**].
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Tolerating trach.  Improved patient
   comfort.  Hope to continue to work towards trach collar trial.
   SOMNULANT -- possible slow clearance of sedtives. Monitor.
   SPUTUM -- may represent tracheobronchitis, discoloration may be related
   to bleeding associted with trach placement.  Monitor.
   ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **]) --
   improved.  Monitor
   FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN) --
   resolved.  Monitor daily.
   SHOCK, SEPTIC -- resolved.  Monitor MAP.
   DECUBITUS ULCER (PRESENT AT ADMISSION) -- local care.
   A-FIB -- good rate control.
   PARKINSON'S DISEASE -- continue medications
   THROMBOCYTOPENIA -- stable
   ANEMIA -- gradual reduction.  In part related to phlebotomy.  Monitor
   for GI bleed.
   FLUIDS -- hope to net diurese.
   NUTRITIONAL SUPPORT -- initiate TF.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2156-10-01 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2156-9-30**] 11:32 AM
   Patient tolerated PS most of the night but transitioned to AC as RR was
   increasing to 30
   RSBI this am of 70, failed SBT as MV went to ~3
   When transferred by nurses, patient openned his eyes and is more
   responsive today to painful stimuli
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-28**] 07:31 PM
   Cefipime - [**2156-9-28**] 11:58 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-9-30**] 11:22 PM
   Pantoprazole (Protonix) - [**2156-10-1**] 01:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-1**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 78 (73 - 101) bpm
   BP: 106/51(65) {102/49(63) - 113/64(79)} mmHg
   RR: 21 (18 - 46) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 53.4 kg
   Height: 62 Inch
    CVP: 7 (0 - 11)mmHg
   Total In:
                                                                  1,267 mL
                                                                    282 mL
   PO:
   TF:
                                                                    219 mL
                                                                    203 mL
   IVF:
                                                                    417 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  3,931 mL
                                                                    420 mL
   Urine:
                                                                  3,926 mL
                                                                    420 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,664 mL
                                                                   -138 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 413 (413 - 462) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 12.4 L/min
   Physical Examination
   Gen- Trachiostomy on vent,  no response to verbal commands, some facial
   tensing to sternal rub
   Pupils- 4mm ERRL
   CV- RRR, no M/R/G
   Pulm- Rhonchi throughout anterior  Upper and lower lung fields, no
   wheezes/rales
   Abd- soft, BS +, PEG tube in place, dressing C/D/I
   Extr- WWP, 3+ edema in all 4 extremities, R IJ appears clean without
   erythema, No rigidity
   Labs / Radiology
   276 K/uL
   8.6 g/dL
   138 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   26.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2156-9-27**]  04:33 AM
                             [**2156-9-28**]  03:53 AM
                             [**2156-9-28**]  05:48 PM
                             [**2156-9-29**]  04:00 AM
                             [**2156-9-29**]  10:51 AM
                             [**2156-9-29**]  05:36 PM
                             [**2156-9-30**]  03:31 AM
                             [**2156-9-30**]  03:57 AM
                             [**2156-9-30**]  02:18 PM
                             [**2156-10-1**]  04:49 AM
   WBC
   9.4
   8.0
   6.7
   6.9
   7.5
   Hct
   26.9
   26.4
   24.4
   25.7
   26.6
   Plt
   165
   169
   183
   217
   276
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   32
   32
   35
   Glucose
   124
   115
   90
   126
   88
   89
   138
   Other labs: PT / PTT / INR:13.7/26.8/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:12.4
   %, Mono:4.4 %, Eos:1.9 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, SEPTIC
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 TACHYCARDIA, OTHER
 PARKINSON'S DISEASE
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, OTHER
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
   89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS likely due to
   aspiration event.
   Plan:
   # Altered MS
 [**Name13 (STitle) 53**] off propofol for >36 hrs and has not received
   Morphine.  His extremity exam very loose indicating his parkinsons is
   not the cause for his immobility.
   -Will continue to observe for 1 more day as patient was sedated for 10
   days and may take some time to clear.
   -Hold morphine or other sedatives
   -Non-con head CT today.
   .
    # Respiratory failure, pt. currently day 10 intubation s/p
   Trachiostomy.
   Due to aspiration event, patient meets ARDS criteria.
   -RSBI 70 today. SBT not tolerated as MV went to 3 .
   -Continue daily RSBI and SBT
   - daily CXR
   -F/U mini BAL and tracheal aspirate cultures.
   -If patient spikes or WBC increase, will start Zosyn, Cipro, Vanc for
   presumed VAP and F/U cx.
   - Phos repleat for strength
   -Neg 1000m L if pressures tolerate.
   # Metabolic Alkalosis:  Patient with bicarb of 31, likely due to
   diuresis
   -aggressively repleat K to 4.5
   -continue to monitor
   -Chem 10 in PM -> replace lytes as needed
   # Anemia: Hct stable today
   - guiac stools x3
   - Transfuse if <21
   .
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   .
   #Tachycardia: Remained in sinus rhythm overnight
   -Continue dig
   -Dig level today
   -replete electrolytes
   #GI care: Patient Starting TF through PEG
   - continue bowel regimen
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia:
   - patient with plt trending down but returned within the normal range
   - HIT Ab - Negative
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: TFs through PEG.  Replace lytes, including phos more
   aggressively (nutriphos NG).
   .
   # Access- RIJ
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots, Heparin SQ
   given Negative HIT Ab
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  To Rehab tomorrow
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-30**] 11:21 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2156-10-01 11:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2156-9-30**] 11:32 AM
   Remains mechanically ventilated via trach.
   Opens eyes intermittently to tactile stimulation.
   Remains on no sedation.
   History obtained from Medical records
   Patient unable to provide history: Language barrier, mechanically
   ventilated
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2156-9-28**] 07:31 PM
   Cefipime - [**2156-9-28**] 11:58 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2156-10-1**] 01:38 AM
   Heparin Sodium (Prophylaxis) - [**2156-10-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2156-10-1**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 84 (73 - 101) bpm
   BP: 105/75(81) {92/46(57) - 113/75(81)} mmHg
   RR: 40 (19 - 46) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 53.4 kg
   Height: 62 Inch
   CVP: 24 (0 - 24)mmHg
   Total In:
                                                                  1,267 mL
                                                                    685 mL
   PO:
   TF:
                                                                    219 mL
                                                                    330 mL
   IVF:
                                                                    417 mL
                                                                    295 mL
   Blood products:
   Total out:
                                                                  3,931 mL
                                                                    620 mL
   Urine:
                                                                  3,926 mL
                                                                    620 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,664 mL
                                                                     65 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 430 (413 - 430) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///35/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : scattered, few, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed, Opens eyes to
   tactile stimulus; whinces to sternal rub
   Labs / Radiology
   8.6 g/dL
   276 K/uL
   138 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.0 mEq/L
   16 mg/dL
   103 mEq/L
   141 mEq/L
   26.6 %
   7.5 K/uL
        [image002.jpg]
                             [**2156-9-27**]  04:33 AM
                             [**2156-9-28**]  03:53 AM
                             [**2156-9-28**]  05:48 PM
                             [**2156-9-29**]  04:00 AM
                             [**2156-9-29**]  10:51 AM
                             [**2156-9-29**]  05:36 PM
                             [**2156-9-30**]  03:31 AM
                             [**2156-9-30**]  03:57 AM
                             [**2156-9-30**]  02:18 PM
                             [**2156-10-1**]  04:49 AM
   WBC
   9.4
   8.0
   6.7
   6.9
   7.5
   Hct
   26.9
   26.4
   24.4
   25.7
   26.6
   Plt
   165
   169
   183
   217
   276
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   32
   32
   35
   Glucose
   124
   115
   90
   126
   88
   89
   138
   Other labs: PT / PTT / INR:13.7/26.8/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:12.4
   %, Mono:4.4 %, Eos:1.9 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   RESPRIATORY FAILURE --  persistent.  Good response with tracheotomy
   tube placement, now much more calm without sedation.  Limited progress
   with weaning, however.
   PULMONARY INFILTRATES  -- attributed to Pulmonary edema, possible ARDS
   ALTERED MENTAL STATUS
 gradual improvement, but progress slow (suspect
   reflects slow clearance of sedatives).  Consider head CT if no further
   clinical improvement.
   FEVER
 resolved.  Monitor off antimicrobials.
   SHOCK, SEPTIC -- improved.  Monitor BP, P.
   DECUBITUS ULCER (PRESENT AT ADMISSION) -- local care.
   TACHYCARDIA
 a-fib.  Contolled on Digoxin.  Check level.
   PARKINSON'S DISEASE -- flaccid exam.  Receiving anti-Parkinsonian
   meds.  Possible due to slow clearance of meds.
   THROMBOCYTOPENIA, -- stable.
   ANEMIA
 stable.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-9-30**] 11:21 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2156-10-02 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2156-10-1**] 08:00 AM
   Furosemide (Lasix) - [**2156-10-1**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-2**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 87 (72 - 88) bpm
   BP: 103/51(63) {80/39(50) - 119/75(81)} mmHg
   RR: 28 (19 - 45) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.1 kg (admission): 53.4 kg
   Height: 62 Inch
    CVP: 6 (4 - 24)mmHg
   Total In:
                                                                  2,162 mL
                                                                    514 mL
   PO:
   TF:
                                                                    449 mL
                                                                    259 mL
   IVF:
                                                                  1,233 mL
                                                                     65 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                  1,330 mL
   Urine:
                                                                  2,470 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -308 mL
                                                                   -816 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 386 (386 - 462) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: ///37/
   Ve: 11.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   266 K/uL
   8.3 g/dL
   145 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.8 mEq/L
   13 mg/dL
   102 mEq/L
   142 mEq/L
   24.1 %
   7.6 K/uL
        [image002.jpg]
                             [**2156-9-28**]  03:53 AM
                             [**2156-9-28**]  05:48 PM
                             [**2156-9-29**]  04:00 AM
                             [**2156-9-29**]  10:51 AM
                             [**2156-9-29**]  05:36 PM
                             [**2156-9-30**]  03:31 AM
                             [**2156-9-30**]  03:57 AM
                             [**2156-9-30**]  02:18 PM
                             [**2156-10-1**]  04:49 AM
                             [**2156-10-2**]  04:01 AM
   WBC
   9.4
   8.0
   6.7
   6.9
   7.5
   7.6
   Hct
   26.9
   26.4
   24.4
   25.7
   26.6
   24.1
   Plt
   165
   169
   183
   [**Telephone/Fax (3) 4655**]
   Cr
   0.6
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   32
   35
   Glucose
   124
   115
   90
   126
   88
   89
   138
   145
   Other labs: PT / PTT / INR:13.7/26.8/1.2, CK / CKMB /
   Troponin-T:25/2/0.02, Differential-Neuts:81.1 %, Band:0.0 %, Lymph:12.4
   %, Mono:4.4 %, Eos:1.9 %, Lactic Acid:1.1 mmol/L, LDH:154 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SHOCK, SEPTIC
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 TACHYCARDIA, OTHER
 PARKINSON'S DISEASE
 THROMBOCYTOPENIA, ACUTE
 ANEMIA, OTHER
 GASTROESOPHAGEAL REFLUX DISEASE (GERD)
   89 y/o M with endstage Parkinson's, dysphagia, p/w ARDS likely due to
   aspiration event.
   Plan:
   # Altered MS
 [**Name13 (STitle) 53**] off propofol for >36 hrs and has not received
   Morphine.  His extremity exam very loose indicating his parkinsons is
   not the cause for his immobility.
   -Will continue to observe for 1 more day as patient was sedated for 10
   days and may take some time to clear.
   -Hold morphine or other sedatives
   -Non-con head CT today.
   .
    # Respiratory failure, pt. currently day 10 intubation s/p
   Trachiostomy.
   Due to aspiration event, patient meets ARDS criteria.
   -RSBI 70 today. SBT not tolerated as MV went to 3 .
   -Continue daily RSBI and SBT
   - daily CXR
   -F/U mini BAL and tracheal aspirate cultures.
   -If patient spikes or WBC increase, will start Zosyn, Cipro, Vanc for
   presumed VAP and F/U cx.
   - Phos repleat for strength
   -Neg 1000m L if pressures tolerate.
   # Metabolic Alkalosis:  Patient with bicarb of 31, likely due to
   diuresis
   -aggressively repleat K to 4.5
   -continue to monitor
   -Chem 10 in PM -> replace lytes as needed
   # Anemia: Hct stable today
   - guiac stools x3
   - Transfuse if <21
   .
   # Sacral Decubitous Ulcer
   -Wound care evaled and recommended duoderm with allevin foam
   - Change dressing q 3 days
   .
   #Tachycardia: Remained in sinus rhythm overnight
   -Continue dig
   -Dig level today
   -replete electrolytes
   #GI care: Patient Starting TF through PEG
   - continue bowel regimen
   .
   # Parkinson's disease- on Sinemet
   .
   # Thrombocytopenia:
   - patient with plt trending down but returned within the normal range
   - HIT Ab - Negative
   .
   # GERD- continue PPI [**Hospital1 **]
   .
   # FEN: TFs through PEG.  Replace lytes, including phos more
   aggressively (nutriphos NG).
   .
   # Access- RIJ
   .
   # PPx:  PPI, chlorhexidine, HOB elevation, pneumoboots, Heparin SQ
   given Negative HIT Ab
   .
   # Code:  confirmed DNR with daughter who is HCP
   .
   # Dispo:  To Rehab tomorrow
   .
   # Comm:  HCP & daughter, [**Name (NI) 4181**] [**Known lastname **], Cell [**Telephone/Fax (1) 4182**].
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2156-10-2**] 12:33 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Presep Catheter - [**2156-9-21**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: